US06855715B1
1-t-Butoxycarbonyl-4-(2-pyridoxy)piperidine (6.5 g) was treated with a solution of hydrogen chloride in ethyl acetate (110 ml) for 7 h and the mixture evaporated to give 4-(2-pyridoxy)piperidine dihydrochloride, (7.4 g 90%)

reactant | 1-t-Butoxycarbonyl-4-(2-pyridoxy)piperidine | 6.5 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=NC=CC=C1 | C15H22N2O3
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | 110 ml | C(C)(=O)OCC | C4H8O2
product | 4-(2-pyridoxy)piperidine dihydrochloride | Cl.Cl.N1=C(C=CC=C1)OC1CCNCC1 | InChI=1S/C10H14N2O.2ClH/c1-2-6-12-10(3-1)13-9-4-7-11-8-5-9;;/h1-3,6,9,11H,4-5,7-8H2;2*1H
